US06479424B1
α,α,α′,α′-Tetrabromo-o-xylene (200 g, 0.48 mole) was dissolved in 2000 mL of dimethylformamide. 2-Cyclopentene-1-one (40 g, 0.25 mole) was added, along with 500 g sodium iodide. The mixture was heated overnight at 80° C. The mixture was cooled and poured into 2 L of ice water containing sodium bisulfide (20 g). The solids were collected and recrystallized from ethanol to give 65 g of benz[f]indan-1-one. The benzindanone was then reduced by dissolving in 600 mL of ethanol and adding 30 g of sodium borohydride, over a 2-hour period. The solution was stirred at room temperature overnight and quenched with 1 N HCl. The ethanol was removed under vacuum, and the product extracted into toluene. The product was then recrystallized from hexanes to give 58 g of benz[f]indan-1-ol. The benzindanol was then dehydrated by refluxing in 100 mL of 10% sulfuric acid overnight. The solution was cooled and extracted with toluene. The product was purified by column chromatography, in hexanes, followed by two recrystallizations from ethanol, and a final recrystallization from hexane to give 10.8 g (13% overall yield) of Benz[f]indene.

reactant | benzindanone | C1(CCC2=CC=C3C(=C12)C=CC=C3)=O | C13H10O
reactant | sodium borohydride | 30 g | [BH4-].[Na+]
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | benz[f]indan-1-ol | 58 g | C1(CCC=2C=C3C(=CC12)C=CC=C3)O | C13H12O
